US07312241B2
(3,4-dimethoxyphenyl)-(3,5-dimethoxyphenyl)methanone (0.50 g, 4.95 mmol), (diethoxyphosphoryl)acetic acid methyl ester (2.29 g, 9.90 mmol), and lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 9.90 ml, 9.90 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude yellowish oil was purified via preparative HPLC to give 3-(3,4-dimethoxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylic acid methyl ester as a light yellow oil (0.45 g, 25%): 1HNMR (CDCl3) δ 6.89-6.72 (m, 2H, Ar), 6.49-6.36 (m, 4H, Ar), 6.28 (s, 1H, double bond proton), 3.92 (s, 3H, OCH3), 3.82 (s, 3H, OCH3), 3.75 (s, 6H, 2OCH3), 3.64 (s, 3H, OCH3). Anal. Calcd. For C20H22O6+1.06 H2O: C, 63.60; H, 6.45. Found: C, 63.22; H, 5.88.

reactant | (3,4-dimethoxyphenyl)-(3,5-dimethoxyphenyl)methanone | 4.95 mmol, 0.50 g | COC=1C=C(C=CC1OC)C(=O)C1=CC(=CC(=C1)OC)OC | C17H18O5
reactant | (diethoxyphosphoryl)acetic acid methyl ester | 9.90 mmol, 2.29 g | COC(CP(=O)(OCC)OCC)=O | C7H15O5P
reactant | lithium bis(trimethylsilyl)amide | 9.90 mmol, 1.0 M, 9.90 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
product | 3-(3,4-dimethoxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylic acid methyl ester | 0.45 g, 25% | COC(C=C(C1=CC(=CC(=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C20H22O6
